US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrzin-2-amine but substituting 2-bromopyridine and starting with N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.15, 1.31, 2.14, 2.49, 2.71, 3.42, 3.54, 3.78, 3.85, 4.07, 4.28, 4.92, 5.21, 6.50˜6.66, 6.79, 6.84, 7.12, 8.20; IR (diffuse reflectance) 2969, 2405 (w), 2351 (w), 2337 (w), 2212 (w), 2015 (w), 1599 (s), 1560, 1482 (s), 1474 (s), 1442 (s), 1392, 1385, 1242, 769 cm−1 HRMS (ESI) calcd for C27H35N5O2+H1 462.2869. found 462.2859.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H32N4O2
product | N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C27H35N5O2
